US08067420B2
A mixture of 3-(2-(pyridin-2-yl)ethylthio)pyrazin-2(1H)-one (100 mg, 0.429 mmol), which was prepared by the procedure described in Method 7 except for substitution of 2-(2-pyridylethylthiol) for 2-(4-chlorophenethanol), 1-(4-bromo-2-methylphenoxy)-2-methylpropan-2-ol (133 mg, 0.514 mmol), N1,N2-dimethylethane-1,2-diamine (113 mg, 1.286 mmol), K3PO4 (0.106 mL, 1.286 mmol) and copper(1) iodide (82 mg, 0.429 mmol) in dioxane (1.0 mL) was stirred at 115° C. for 90 min. The reaction mixture, after cooling to RT, was filtered and the filtrate was concentrated. The crude product was purified by silica gel chromatography employing a solvent gradient (hexane to 100% ethyl acetate) to yield 1-(4-(2-hydroxy-2-methylpropoxy)-3-methylphenyl)-3-(2-(pyridin-2-yl)ethylthio)pyrazin-2(1H)-one (140 mg, 0.340 mmol, 79% yield) as white solid. MS (M+H 412). 1H NMR (400 MHz, MeOD) δ ppm 8.67 (1H, d), 8.48 (1H, td, J=7.91, 1.51 Hz), 8.02 (1H, d, J=8.28 Hz), 7.81-7.95 (1H, m), 7.07-7.29 (4H, m), 6.93 (1H, d, J=8.78 Hz), 3.76 (2H, s), 3.35-3.57 (4H, m), 2.22 (3H, s), 1.27 (6H, s).

reactant | 3-(2-(pyridin-2-yl)ethylthio)pyrazin-2(1H)-one | 0.429 mmol, 100 mg | N1=C(C=CC=C1)CCSC=1C(NC=CN1)=O | C11H11N3OS
reactant | 1-(4-bromo-2-methylphenoxy)-2-methylpropan-2-ol | 0.514 mmol, 133 mg | BrC1=CC(=C(OCC(C)(O)C)C=C1)C | C11H15BrO2
reactant | N1,N2-dimethylethane-1,2-diamine | 1.286 mmol, 113 mg | CNCCNC | C4H12N2
reactant | K3PO4 | 1.286 mmol, 0.106 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
catalyst | copper(1) iodide | 0.429 mmol, 82 mg | [Cu]I
product | 1-(4-(2-hydroxy-2-methylpropoxy)-3-methylphenyl)-3-(2-(pyridin-2-yl)ethylthio)pyrazin-2(1H)-one | 0.340 mmol, 140 mg, 79% yield | OC(COC1=C(C=C(C=C1)N1C(C(=NC=C1)SCCC1=NC=CC=C1)=O)C)(C)C | C22H25N3O3S
